US08034827B2
c) 4-(1-Benzyl-piperidin-4-ylidenemethyl)-benzimidic acid ethyl ester
A mixture of 4-(1-benzyl-piperidin-4-ylidenemethyl)-benzonitrile (14 g, 48.6 mmol), chloroform (10 mL) and 6 M hydrogen chloride in ethanol (300 mL) was stirred at room temperature for 48 hours. The solution was concentrated in vacuo, the remaining solid was repeatedly dissolved in ethanol (400 mL) and concentrated in vacuo to yield 16.4 g (92.4%) of the title compound, which was used in the next steps without further purification.

reactant | 4-(1-benzyl-piperidin-4-ylidenemethyl)-benzonitrile | 48.6 mmol, 14 g | C(C1=CC=CC=C1)N1CCC(CC1)=CC1=CC=C(C#N)C=C1 | C20H20N2
reactant | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
reactant | hydrogen chloride | 6 M | Cl | ClH
reactant | ethanol | 300 mL | C(C)O | C2H6O
product | 4-(1-Benzyl-piperidin-4-ylidenemethyl)-benzimidic acid ethyl ester | 16.4 g, 92.4% | C(C)OC(C1=CC=C(C=C1)C=C1CCN(CC1)CC1=CC=CC=C1)=N | C22H26N2O
